US07754717B2
To methyl 5-((2-cyclopentylethyl)carbamoyl)-2-methylbenzoate (1.2 g, 4.3 mmol) dissolved in THF (15 mL) was added a solution of LiOH, monohydrate (0.27 g, 6.4 mmol) in water (15 mL). The reaction mixture was stirred at RT for 18 h. THF was removed, the residue was extracted with ether (5 mL) and the layers were separated. To the aqueous layer was added 2N HCl until pH 4-5 (a lot of precipitate formed). The solid was collected by filtration, washed with water, dried to give 5-((2-cyclopentylethyl)carbamoyl)-2-methylbenzoic acid as a white solid. MS (ESI, pos. ion) m/z: 276.2 (M+1).

reactant | methyl 5-((2-cyclopentylethyl)carbamoyl)-2-methylbenzoate | 4.3 mmol, 1.2 g | C1(CCCC1)CCNC(=O)C=1C=CC(=C(C(=O)OC)C1)C | C17H23NO3
reactant | LiOH | [Li+].[OH-]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | water | 15 mL | O | H2O
product | 5-((2-cyclopentylethyl)carbamoyl)-2-methylbenzoic acid | C1(CCCC1)CCNC(=O)C=1C=CC(=C(C(=O)O)C1)C | C16H21NO3
